US07625901B2
Step A. Di-tert-butyl [1-(3,5-difluorophenyl)ethyl]imidodicarbonate
To a solution of [1-(3,5-difluorophenyl)ethyl]amine (10.0 g, 63.6 mmol) in CH2Cl2 (200 mL) at 0° C. was added di-tert-butyl dicarbonate (13.9 g, 63.6 mmol) and the resulting mixture was stirred at ambient temperature for 18 h. The solvent was removed under reduced pressure. To the residue was added di-tert-butyl dicarbonate (20.8 g, 95.4 mmol) and DMAP (7.78 g, 63.6 mmol) and the reaction mixture was heated at 80° C. for 2 h. The mixture was allowed to cool and additional di-tert-butyl dicarbonate (69.4 g, 318 mmol) was added. The reaction mixture was heated at 80° C. for 2 h, allowed to cool, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-98:2 to 90:10, to give the title compound. MS: m/z=421 (M+Na+CH3CN).

reactant | [1-(3,5-difluorophenyl)ethyl]amine | 63.6 mmol, 10.0 g | FC=1C=C(C=C(C1)F)C(C)N | C8H9F2N
reactant | di-tert-butyl dicarbonate | 63.6 mmol, 13.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 95.4 mmol, 20.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 318 mmol, 69.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 63.6 mmol, 7.78 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Di-tert-butyl [1-(3,5-difluorophenyl)ethyl]imidodicarbonate | FC=1C=C(C=C(C1)F)C(C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H25F2NO4
